US04977151
After dissolving 4.0 g of 4-benzyloxyacetophenone into 20 ml of 1,4-dioxane and 20 ml of tetrahydrofuran, 0.1 g of anhydrous aluminum chloride and 3.1 g of bromine were added under ice cooling and stirring. Further, after stirring for 5 hours under ice cooling, the reaction solution was concentrated to solid. Water and chloroform were added to the residue to separate liquid layers. Then, the chloroform layer was dried over anhydrous sodium sulfate and then concentrated to solid followed by purification by silica gel column chromatography using benzene/n-hexane (1:1) as an elute, to obtain 4.1 g of 2-bromo-1-(4-benzyloxy-phenyl)-ethanone. Then, using 3.0 g of the thus obtained bromide, 2.2 g of (Z)-2-(4-methyl-piperazin-1-yl)-1-(4-benzyloxy-phenyl)-ethanone oxime hydrochloride with the melting point of from 208° to 210° C. (decomposition) and 0.7 g of (E)-2-(4-methyl-piperazin-1-yl)-1-(4-benzyloxy-phenyl)-ethanone oxime hydrochloride with the melting point of from 210° to 212° C. were obtained in the same manner as in Example 1.

reactant | 4-benzyloxyacetophenone | 4.0 g | CC(=O)C1=CC=C(C=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | bromine | 3.1 g | BrBr | Br2
catalyst | aluminum chloride | 0.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-bromo-1-(4-benzyloxy-phenyl)-ethanone | 4.1 g | BrCC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C15H13BrO2
